US08071643B2
A solution of [(1R,2R,3R)-2-hydroxy-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (2.46 g, 6.49 mmol) in 50 ml of dimethylformamide was treated with tert-butyldimethylsilyl chloride (978 mg, 6.49 mmol) and imidazole (552 mg, 8.11 mmol) and stirred at 80° C. for 5 days. The reaction mixture was concentrated under reduced pressure. The residue was diluted with 0.1 N HCl and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and filtered. After chromatography (silica, cyclohexane/ethyl acetate=10/1) [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclo-hexyl]-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (Rf=0.25, 3.0 g, 94% yield) was obtained.

reactant | [(1R,2R,3R)-2-hydroxy-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1[C@H]([C@@H](CCC1)SCC1=C(C=C(C=C1C)C)C)O)=O | C21H33NO3S
reactant | tert-butyldimethylsilyl chloride | 6.49 mmol, 978 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 8.11 mmol, 552 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclo-hexyl]-carbamic acid tert-butyl ester | 94% yield | C(C)(C)(C)OC(N[C@H]1[C@H]([C@@H](CCC1)SCC1=C(C=C(C=C1C)C)C)O[Si](C)(C)C(C)(C)C)=O | C27H47NO3SSi
